US05514682
1. 4-(4,6-Diazabenzimidazol-1-yl)nitrobenzene
Prepared from purine and 1-fluoro-4-nitrobenzene as described for Example 1, Step 1. The product precipitated from the reaction mixture as a single isomer; δ (D6 -DMSO) 8.16 (2H, d, J=9.0Hz, Ar--H), 8.48 (2H, d, J=9.0Hz, Ar--H), 9.13 (1H, s, Ar--H), 9.28 (1H, s, Ar--H), 9.39 (1H, s, Ar--H).

reactant | purine | N1=CN=C2N=CNC2=C1 | C5H4N4
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 4-(4,6-Diazabenzimidazol-1-yl)nitrobenzene | N1(C=NC2=C1C=NC=N2)C2=CC=C(C=C2)[N+](=O)[O-] | C11H7N5O2
